US06790971B1
Bromo-N-Methyl-N-(1-Methyl-Ethyl)-Acetamide
A solution of 26 ml of methyl isopropylamine in 100 ml of ether was added to a solution of 10 ml of bromo acetyl bromide in 150 ml of ether cooled to −20° C. and the mixture was allowed to return to 20° C. The mixture was stirred for 30 minutes at 20° C. and diluted with water, decanted and extracted with ether. The extracts were dried and separated out by distillation to obtain 13 g of the expected product with a boiling point of 71° C. to 72° C. under 1 mmHg.

reactant | methyl isopropylamine | 26 ml | CNC(C)C | C4H11N
reactant | bromo acetyl bromide | 10 ml | BrCC(=O)Br | C2H2Br2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | Bromo-N-Methyl-N-(1-Methyl-Ethyl)-Acetamide | 13 g | BrCC(=O)N(C(C)C)C | C6H12BrNO
